### PR TITLE
[Merged by Bors] - refactor(GroupTheory/Coxeter/Basic): Coxeter groups

### PR DESCRIPTION
**Pull request by trivial1711**
- Remove the definition `def Matrix.IsCoxeter : Prop`. Replace it with a type `CoxeterMatrix B`, which is the type of all Coxeter matrices indexed by `B`.
- Simplify the definitions of Coxeter matrices `Aₙ` (`n : ℕ`), `Bₙ` (`n : ℕ`), `Dₙ` (`n : ℕ`), `I₂ₘ` (`m : ℕ`), `E₆`, `E₇`, `E₈`, `F₄`, `G₂`, `H₃`, and `H₄`.
- All definitions involving a matrix (including the definition of a Coxeter group, Coxeter relation, and Coxeter system) now require the matrix to be a Coxeter matrix.
- Update docstrings of `GroupTheory.Coxeter.Basic` and `GroupTheory.Coxeter.Matrix`.
  - The terms "Coxeter matrix", "Coxeter group", and "Coxeter system" are now defined in the header docstring.
  - It is now clearer that the rank of a Coxeter system can be infinite.
  - There is now a note in the implementation details of `GroupTheory.Coxeter.Matrix` about what happens when an entry of the Coxeter matrix is zero.
  - There is now a note in the implementation details of `GroupTheory.Coxeter.Basic` about how we try to state our results in terms of the type `B` that indexes the simple reflections, rather than the set $S$ of simple reflections.
- Rename these definitions, structures, and theorems. Previously, there were six namespaces to keep track of: `Matrix`, `Matrix.IsCoxeter`, `CoxeterMatrix`, `CoxeterGroup`, `CoxeterGroup.Relations`, and `CoxeterSystem`. It was difficult to guess the fully qualified name of many theorems, and the names were not designed for use with field notation. Instead, we put everything into two namespaces: `CoxeterMatrix` and `CoxeterSystem`.
  - Rename `CoxeterGroup.Relations.ofMatrix` to `CoxeterMatrix.relation`. Also, change its type to `B → B → FreeGroup B`  (from `B × B → FreeGroup B`).
  - Rename `CoxeterGroup.Relations.toSet` to `CoxeterMatrix.relationsSet`.
  - Rename `Matrix.CoxeterGroup` to `CoxeterMatrix.group`.
  - Rename `CoxeterGroup.of` to `CoxeterMatrix.simple`.
  - Remove `CoxeterSystem.funLike`. Rename `CoxeterSystem.funLike.coe` to `CoxeterSystem.simple`, because "simple reflection" (or "simple" for short) is the name used in the literature for this concept, and it is unintuitive to think of a Coxeter system as a function.
  - Rename `CoxeterSystem.funLike.coe_injective'`  and `CoxeterSystem.ext'`, which are exactly the same theorem, to `CoxeterSystem.simple_determines_coxeterSystem`. (This theorem is forthcoming in #11406.)
  - Rename `CoxeterSystem.ofCoxeterGroup` to `CoxeterMatrix.toCoxeterSystem`. `CoxeterSystem.ofCoxeterGroup` is a confusing name because the input to the definition is an `CoxeterMatrix`, not a Coxeter group.
  - Rename `CoxeterSystem.ofCoxeterGroup_apply` to `CoxeterMatrix.toCoxeterSystem_simple` and remove `@[simp]`. The theorem doesn't have a Coxeter system as input and it does have a `CoxeterMatrix` as input, so it makes more sense for it to be in the `CoxeterMatrix` namespace.
  - Rename `CoxeterSystem.map_relations_eq_reindex_relations` to `CoxeterMatrix.reindex_relationsSet` and switch the two sides of the equality. The theorem doesn't mention Coxeter systems anywhere, so it shouldn't be in the `CoxeterSystem` namespace. Also, the new name better indicates what is on the left-hand side of the equality.
  - Rename `CoxeterSystem.equivCoxeterGroup` to `CoxeterMatrix.reindexGroupEquiv` and switch the two sides of the equivalence. The definition doesn't mention Coxeter systems anywhere, so it shouldn't be in the `CoxeterSystem` namespace. Also, the new name conveys that the definition is about the Coxeter group associated to a reindexed matrix, rather than merely conveying that it is about an isomorphism of Coxeter groups.
  - Rename `CoxeterSystem.equivCoxeterGroup_apply_of` to `CoxeterMatrix.reindexGroupEquiv_apply_simple`.
  - Rename `CoxeterSystem.equivCoxeterGroup_symm_apply_of` `CoxeterMatrix.reindexGroupEquiv_symm_apply_simple`.
  - Rename `CoxeterSystem.reindex_apply` to `CoxeterSystem.reindex_simple`.
  - Rename `CoxeterSystem.map_apply` to `CoxeterSystem.map_simple`.
- Simplify several of the proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 1]
```diff
@@ -74,390 +67,138 @@ presentation corresponding to a Coxeter matrix which is registered in a Coxeter
...
-    mulEquiv : W ≃* Matrix.CoxeterGroup M
+/-- Coxeter groups of isomorphic types are isomorphic. -/
+def Matrix.reindexCoxeterGroupEquiv : (reindex e e M).coxeterGroup ≃* M.coxeterGroup :=
+  (QuotientGroup.congr (Subgroup.normalClosure M.coxeterRelationsSet)
+    (Subgroup.normalClosure (reindex e e M).coxeterRelationsSet)
+    (FreeGroup.freeGroupCongr e) (by
+      rw [reindex_coxeterRelationsSet,
+        Subgroup.map_normalClosure _ _ (FreeGroup.freeGroupCongr e).surjective,
+        ← MulEquiv.coe_toMonoidHom]
+      rfl)).symm
```
Comment (newell) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:141]: Lines 137-141 look funky.  Did something happen with line wrapping?  I haven't been around lately so maybe there is a new formatter for all I know.

This is a small nit and not really not too important.

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 2]
```diff
@@ -74,390 +67,138 @@ presentation corresponding to a Coxeter matrix which is registered in a Coxeter
...
-end CoxeterGroup
+theorem Matrix.reindex_isCoxeter_iff : (reindex e e M).IsCoxeter ↔ M.IsCoxeter := by
+  constructor
+  · intro h
+    simpa using h.reindex e.symm
+  · exact IsCoxeter.reindex _
 
 /-- The group presentation corresponding to a Coxeter matrix. -/
-def Matrix.CoxeterGroup := PresentedGroup <| CoxeterGroup.Relations.toSet M
+def Matrix.coxeterGroup := PresentedGroup M.coxeterRelationsSet
```
Comment (newell) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:113]: I think ```Coxeter``` should stay capitalized since it is someone's name.  If this goes against naming conventions (I haven't looked at the rules to refresh my memory) I would argue that if this should be changed! The greats that came before us deserve this respect IMHO! :)

This goes for all other places in the code where ```Coxeter``` shows up.

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 3]
```diff
@@ -74,390 +67,138 @@ presentation corresponding to a Coxeter matrix which is registered in a Coxeter
...
+
+theorem Matrix.reindexCoxeterGroupEquiv_symm_apply_simple (i : B) :
+    (M.reindexCoxeterGroupEquiv e).symm (M.coxeterGroupSimpleReflection i) =
+    (reindex e e M).coxeterGroupSimpleReflection (e i) := rfl
+
+/-- A Coxeter system `CoxeterSystem M W` is a structure recording the isomorphism between
+a group `W` and the group presentation corresponding to a Coxeter matrix `M`. -/
+@[ext]
+structure CoxeterSystem (W : Type*) [Group W] where
+  isCoxeter : M.IsCoxeter
```
Comment (newell) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:155]: I like this change and come to think of it not sure myself why I didn't do it like this.  Sometimes getting definitions right is harder than it looks.

I do think that you should leave a comment like ```mulEquiv``` below to appease the symmetry gods!

File: Mathlib/GroupTheory/Coxeter/Basic.lean (hunk 2 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:113]: I think the naming convention is that non-prop types are lower camel case.

Comment (newell) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:113]: Yeah, I still think for names of people we should make an exception to this.

Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:113]: The old name `Matrix.CoxeterGroup` caused me genuine confusion on multiple occasions. The basic reason is this. There are already a lot of things in mathlib that have names ending in `Group` (e.g. `AddGroup` and `CommGroup`). Unlike `CoxeterGroup`, however, these are typeclasses, so they behave completely differently. This problem was exacerbated by the fact that there was also a largely unrelated namespace called `CoxeterGroup`.

Calling it `Matrix.coxeterGroup` instead of `Matrix.CoxeterGroup` gets around these issues to a large extent.

File: Mathlib/GroupTheory/Coxeter/Basic.lean (hunk 1 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:141]: Yeah, it looks a little weird. As far as I know, this is technically the correct spacing, though.

File: Mathlib/GroupTheory/Coxeter/Basic.lean (hunk 3 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:155]: Thanks! Including `isCoxeter` as part of the Coxeter system is nice, because it means you can avoid carrying around the hypothesis `M.IsCoxeter` everywhere.

I disagree that this needs a comment; it's pretty clear what `isCoxeter` means.

File: Mathlib/GroupTheory/Coxeter/Basic.lean (hunk 2 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:113]: (Also, a great mathematician once told me that using someone's name in lowercase is, in fact, a higher sign of respect than capitalizing it. I agree. When someone refers to an "abelian group", they aren't doing so to besmirch Abel's good name; they're doing so because the concept that we've rightly named after him is so fundamental and ingrained that "abelian" is just like any other common English word.)

**Comment by trivial1711** [comment]
I think I still have some work to do on the docstrings. In particular, making it clear that some definitions, like `Matrix.coxeterRelation` and `Matrix.coxeterGroup` , are only really intended to be used when `M` is a Coxeter matrix, but you can use them anyway even if `M` is not.

**Comment by trivial1711** [comment]
Okay, I have performed another round of refactoring, so now all the names are significantly simpler and only two namespaces are used.

**Comment by YaelDillies** [comment]
This is really hard to review. Take eg your first three points:
```
- Remove the definition `def Matrix.IsCoxeter : Prop`. Replace it with a type `CoxeterMatrix B`, which is the type of all Coxeter matrices indexed by `B`. Put the definition of `CoxeterMatrix B` in `GroupTheory.Coxeter.Matrix`.
- Simplify the definitions of Coxeter matrices `Aₙ` (`n : ℕ`), `Bₙ` (`n : ℕ`), `Dₙ` (`n : ℕ`), `I₂ₘ` (`m : ℕ`), `E₆`, `E₇`, `E₈`, `F₄`, `G₂`, `H₃`, and `H₄` and move them into `GroupTheory.Coxeter.Matrix`.
- All definitions involving a matrix (including the definition of a Coxeter group, Coxeter relation, and Coxeter system) now require the matrix to be a Coxeter matrix.
```
You could already write several PRs doing just this. Here is a suggestion for how to split your PRs:
1. Remove the definition `def Matrix.IsCoxeter : Prop`. Replace it with a type `CoxeterMatrix B`, which is the type of all Coxeter matrices indexed by `B`. All definitions involving a matrix (including the definition of a Coxeter group, Coxeter relation, and Coxeter system) now require the matrix to be a Coxeter matrix.
2. Simplify the definitions of Coxeter matrices `Aₙ` (`n : ℕ`), `Bₙ` (`n : ℕ`), `Dₙ` (`n : ℕ`), `I₂ₘ` (`m : ℕ`), `E₆`, `E₇`, `E₈`, `F₄`, `G₂`, `H₃`, and `H₄`.
3. Move the definitions of `CoxeterMatrix B` and of Coxeter matrices `Aₙ` (`n : ℕ`), `Bₙ` (`n : ℕ`), `Dₙ` (`n : ℕ`), `I₂ₘ` (`m : ℕ`), `E₆`, `E₇`, `E₈`, `F₄`, `G₂`, `H₃` to `GroupTheory.Coxeter.Matrix`.

**Comment by trivial1711** [comment]
Thank you so much for taking the time to look at this; you've been very helpful throughout this whole process. However, I disagree. I think that splitting this into multiple pull requests would make it harder to review, not easier. For example, I could split this into two pull requests by refactoring first and then moving everything afterward. But then you'd be looking at the same thing, except it'd all be in one file. Moreover, this is already part of a chain of four pull requests, so the cost of splitting it is rather high.

In my opinion, it makes the most sense to review this by reading the new code by itself without using the diff, and then using the PR description to check that it has the same features as the original. Everything has been moved or renamed in some way, but the total amount of code is very significantly smaller than the original if you do not count the extra documentation I added.

**Comment by eric-wieser** [comment]
> * Remove the definition `def Matrix.IsCoxeter : Prop`. Replace it with a type `CoxeterMatrix B`, which is the type of all Coxeter matrices indexed by `B`. Put the definition of `CoxeterMatrix B` in `GroupTheory.Coxeter.Matrix`.

It's not immediately clear to me that removing `Matrix.IsCoxeter` is a good idea; it turns a proposition with named fields into a conjunction with numeric ones. I'd be tempted to keep `Matrix.IsCoxeter`, and have `abbrev CoxeterMatrix := Subtype Matrix.IsCoxeter`.

**Comment by trivial1711** [comment]
I made sure to make the properties of a Coxeter matrix accessible by name by creating theorems in the `CoxeterMatrix` namespace. For example, the fact that `M i i = 1` is `M.diagonal i`.

If I tried to make the properties accessible by name by using `IsCoxeter` instead, it'd end up as `M.property.diagonal i`, which is a little more cumbersome.

Do you think I should just do both?

**Comment by trivial1711** [comment]
What are your reservations?

**Comment by YaelDillies** [comment]
```quote
- Remove the definition `def Matrix.IsCoxeter : Prop`. Replace it with a type `CoxeterMatrix B`, which is the type of all Coxeter matrices indexed by `B`. Put the definition of `CoxeterMatrix B` in `GroupTheory.Coxeter.Matrix`.
- Remove `CoxeterSystem.funLike`. Rename `CoxeterSystem.funLike.coe` to `CoxeterSystem.simple`, because "simple reflection" (or "simple" for short) is the name used in the literature for this concept, and it is unintuitive to think of a Coxeter system as a function.
```

**Comment by trivial1711** [comment]
First, I hope we can agree that it is important that these definitions only apply to Coxeter matrices. `Matrix.CoxeterGroup` was a confusing name (even disregarding the capitalization), because, for example, `(!![[4]]).CoxeterGroup` is not a Coxeter group at all. (Also, I cannot imagine any situation in which someone would want to use this Coxeter group code to consider $\langle s_i \mid (s_i s_{i'})^{M_{i, i'}} \rangle$ for a non-Coxeter matrix $M_{i, i'}$.) The old `CoxeterSystem M W` also didn't require that `M` is a Coxeter matrix, and so that name was mathematically inaccurate as well.

Since everything in the whole theory is only going to work for Coxeter matrices, there should be a type for Coxeter matrices. Otherwise you're carrying around both a `M : Matrix B B ℕ` and an `hM : M.IsCoxeter` everywhere, when you could just have an `M : CoxeterMatrix B`. This has another advantage: every definition that depends on a Coxeter matrix can go in the `CoxeterMatrix` namespace, and you can use field notation to access it. So, instead of `CoxeterGroup.Relations.ofMatrix M`, you have `M.relation`. Instead of `CoxeterSystem.map_relations_eq_reindex_relations M`, you have `M.reindex_relationsSet`. There is no longer any need to guess whether the particular theorem or definition you want is in `Matrix` or `Matrix.IsCoxeter` or `CoxeterGroup` or `CoxeterGroup.Relations` or if it somehow ended up in `CoxeterSystem`.

**Comment by trivial1711** [comment]
As for removing the `FunLike` instance for Coxeter systems, `CoxeterSystem.simple` is a better name for this concept. You will never find a passage like this on any text on Coxeter groups:

> Let $W$ be a Coxeter group whose simple reflections are indexed by a set $B$. Let $i \in B$ be an index, and let $s_i \in W$ be the result of applying the Coxeter system on $W$ to $i$.

Whereas, you may find a passage like this:

> Let $W$ be a Coxeter group whose simple reflections are indexed by a set $B$. Let $i \in B$ be an index, and let $s_i \in W$ be the corresponding simple reflection.

Basically, no one thinks of $s_i$ as the result of "applying" a Coxeter system to $i$. The first time I read this file, I didn't understand what the `FunLike` instance was trying to do, because thinking of a Coxeter system as a function on $B$ is so far removed from how anyone I know has ever thought of Coxeter systems. I ended up defining `CoxeterSystem.simple` (actually, back then it was called `CoxeterSystem.simpleReflection`), and only later did I realize that `cs.simple i` was the same thing as the previously defined `cs i`.

It is true that `cs i` is shorter than `cs.simple i`. This doesn't really matter, in my opinion. `m n` is shorter than `Nat.gcd m n`, but no one would ever suggest making a `FunLike ℕ ℕ ℕ` so people could write `m n` instead of `Nat.gcd m n`. Also, one can use local notation to write something like `s i`, which is shorter than both `cs i` and `cs.simple i`.

**Comment by YaelDillies** [comment]
I'm not saying you are not making valid points, but I am claiming that I can't assess them without a clean diff that shows the before/after

**Comment by eric-wieser** [comment]
I've created #11875 to do step 3 of Yael's list; it moves things with no changes, and will probably remove 100 lines from the diff in this PR.

**Comment by eric-wieser** [comment]
> As a general rule of thumb, moving AND refactoring in a single PR is a no-go.

Just to emphasize this point; me doing this for you meant the diff went from `+391 −404` to `+256 −287`. That's *250 fewer lines of code* for reviewers to look at.

File: Mathlib/GroupTheory/Coxeter/Matrix.lean [hunk 4]
```diff
@@ -81,30 +154,25 @@ The corresponding Coxeter-Dynkin diagram is:
     o
 ```
 -/
-abbrev Dₙ : Matrix (Fin n) (Fin n) ℕ :=
-  Matrix.of fun i j : Fin n =>
+def Dₙ : CoxeterMatrix (Fin n) :=
+  of (fun i j : Fin n ↦
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Coxeter/Matrix.lean:158]: This is missing a `Matrix.of`

File: Mathlib/GroupTheory/Coxeter/Matrix.lean [hunk 5]
```diff
@@ -29,48 +51,99 @@ This file defines some standard Coxeter matrices.
...
+* [J. Baez, *Coxeter and Dynkin Diagrams*](https://math.ucr.edu/home/baez/twf_dynkin.pdf)
+
 -/
 
+universe u
+
+/-- A *Coxeter matrix* is a symmetric matrix of natural numbers whose diagonal entries are equal to
+1 and whose off-diagonal entries are not equal to 1. -/
+def CoxeterMatrix (B : Type u) : Type u :=
+  {M : Matrix B B ℕ // (∀ i i', M i i' = M i' i) ∧ (∀ i, M i i = 1) ∧ ∀ i i', i ≠ i' → M i i' ≠ 1}
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Coxeter/Matrix.lean:68]: What was the reason for not using `M.IsSymm` any more? Does #11878 resolve it?

**Comment by trivial1711** [comment]
Thank you so much for doing this.

File: Mathlib/GroupTheory/Coxeter/Matrix.lean (hunk 4 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Matrix.lean:158]: I will add them.

File: Mathlib/GroupTheory/Coxeter/Matrix.lean (hunk 5 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Matrix.lean:68]: There are now two different constructors for `CoxeterMatrix`; first, `CoxeterMatrix.of`, which uses a `∀ i i', M i i' = M i' i`, and second, `CoxeterMatrix.of'`, which uses an `M.IsSymm`. Also, there is a theorem `CoxeterMatrix.symmetric` that shows `∀ i i', M i i' = M i' i` and another theorem `CoxeterMatrix.isSymm` that shows `M.IsSymm`. Because `∀ i i', M i i' = M i' i` or `M.IsSymm` are interchangeable in this way, I am not convinced that it matters that much which one is used internally as part of the definition.

Each way of writing the condition has its advantages, so I think it is good to supply both. For example, `M 2 3` can be rewritten to `M 3 2` using `M.symmetric`, which is easier than using `M.isSymm.apply`. But when we define the direct product of Coxeter groups, we will probably want to use [Matrix.IsSymm.fromBlocks](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Symmetric.html#Matrix.IsSymm.fromBlocks) on the Coxeter matrices of each component, which requires a `Matrix.IsSymm`.

Comment (joelriou) [reply Mathlib/GroupTheory/Coxeter/Matrix.lean:68]: Taking into account @eric-wieser remarks, I think the best solution would be:
```lean
structure CoxeterMatrix (B : Type u) where
  M : Matrix B B ℕ
  isSymm : M.IsSymm
  diagonal i : M i i = 1
  off_diagonal i i' : i ≠ i' → M i i' ≠ 1
```

Comment (eric-wieser) [reply Mathlib/GroupTheory/Coxeter/Matrix.lean:68]: I still suspect that `IsCoxeter` has value; for one, it means you can write code like `if M.IsCoxeter then _ else _`, using #11879.

Comment (joelriou) [reply Mathlib/GroupTheory/Coxeter/Matrix.lean:68]: I do not see any situation where we would like to write `if M.IsCoxether then _ else _`... If #11879 facilitates automation and if this requires a separate a structure, we may have such a structure, but then I would advocate for:
```lean
structure CoxeterMatrix (B : Type u) where
  M : Matrix B B ℕ
  isCoxeter : M.IsCoxeter
```
(Or a subtype, but then, I may prefer `def` over `abbrev`.)

In any case, what I feel is the most important, from a mathematical point of view, is that the API for Coxeter groups (e.g. the presented group, `CoxeterSystem`) take as an input something in `CoxeterMatrix B`, and *not* two separate data `M` and `isCoxeter`, as it was the case before this refactor PR.

Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Matrix.lean]: Hello, I changed it to a structure.

Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Matrix.lean]: I am running into the following problem now.

```
/-- A *Coxeter matrix* is a symmetric matrix of natural numbers whose diagonal entries are equal to
1 and whose off-diagonal entries are not equal to 1. -/
@[ext]
structure CoxeterMatrix (B : Type u) where
  M : Matrix B B ℕ
  isSymm : M.IsSymm := by decide
  diagonal i : M i i = 1 := by decide
  off_diagonal i i' : i ≠ i' → M i i' ≠ 1 := by decide

variable {B : Type*}

/-- A Coxeter matrix can be coerced to a matrix. -/
instance : Coe (CoxeterMatrix B) (Matrix B B ℕ) := ⟨M⟩

/-- A Coxeter matrix can be thought of as a function `B → B → ℕ`. -/
instance : FunLike (CoxeterMatrix B) B (B → ℕ) := ⟨M, CoxeterMatrix.ext⟩

attribute [simp] CoxeterMatrix.diagonal
```

I want `M i i` to simplify to 1 if `M` is a Coxeter matrix. But it won't, because the expression `M i i` uses the `FunLike` instance, which means it's not syntactically equal to `(M : Matrix B B ℕ) i i = M.M i i`, which means that the `[simp]` theorem `CoxeterMatrix.diagonal` won't apply to it. What is the best solution to this?

Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Matrix.lean]: I figured it out, I think.

File: Mathlib/GroupTheory/Coxeter/Matrix.lean [hunk 6]
```diff
@@ -29,48 +51,84 @@ This file defines some standard Coxeter matrices.
...
+attribute [simp] diagonal
+
+theorem symmetric (i i' : B) : M i i' = M i' i := M.isSymm.apply i' i
+
+/-- The Coxeter matrix formed by reindexing via the bijection `e : B ≃ B'`. -/
+protected def reindex : CoxeterMatrix B' where
+  M := Matrix.reindex e e M
+  isSymm := M.isSymm.submatrix _
+  diagonal := (fun i ↦ M.diagonal (e.symm i))
+  off_diagonal := (fun i i' h ↦ M.off_diagonal (e.symm i) (e.symm i') (e.symm.injective.ne h))
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Coxeter/Matrix.lean:93]:
```suggestion
  diagonal i := M.diagonal (e.symm i)
  off_diagonal i i' h := M.off_diagonal (e.symm i) (e.symm i') (e.symm.injective.ne h)
```

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 7]
```diff
@@ -59,177 +49,119 @@ presentation corresponding to a Coxeter matrix which is registered in a Coxeter
...
-    use (e hb); use (e b); aesop
-  · rw [Set.le_iff_subset]; intro hb'
-    simp only [Set.mem_range, Prod.exists, Function.uncurry_apply_pair, Set.mem_image,
-      forall_exists_index]
-    intro b1' b2' heq; rw [← heq]
-    use ((FreeGroup.freeGroupCongr e).symm hb')
-    exact ⟨by use (e.symm b1'); use (e.symm b2'); aesop, by aesop⟩
-
-/-- Coxeter groups of isomorphic types are isomorphic. -/
-def equivCoxeterGroup (e : B ≃ B') : CoxeterGroup M ≃* CoxeterGroup (reindex e e M) :=
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:198]: Isn't this with keeping?

Comment (eric-wieser) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:198]: Ah nevermind, I see you have it under a new name.

File: Mathlib/GroupTheory/Coxeter/Matrix.lean [hunk 8]
```diff
@@ -31,65 +51,82 @@ This file defines some standard Coxeter matrices.
...
 
-open Matrix
+/-- The Coxeter matrix formed by reindexing via the bijection `e : B ≃ B'`. -/
+protected def reindex : CoxeterMatrix B' where
+  M := Matrix.reindex e e M
+  isSymm := M.isSymm.submatrix _
+  diagonal i := M.diagonal (e.symm i)
+  off_diagonal i i' h := M.off_diagonal (e.symm i) (e.symm i') (e.symm.injective.ne h)
+
+theorem reindex_apply (i i' : B') : M.reindex e i i' = M (e.symm i) (e.symm i') := rfl
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Coxeter/Matrix.lean:93]: Do we want this to be `simp`?

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 9]
```diff
@@ -56,162 +49,119 @@ presentation corresponding to a Coxeter matrix which is registered in a Coxeter
...
+/-- Push a Coxeter system through a group isomorphism. -/
+@[simps] protected def map (e : W ≃* H) : CoxeterSystem M H := ⟨e.symm.trans cs.mulEquiv⟩
 
-/-- Pushing a Coxeter system through a group isomorphism. -/
-@[simps]
-protected def map (cs : CoxeterSystem M W) (e : W ≃* H) : CoxeterSystem M H :=
-  ofMulEquiv (e.symm.trans cs.mulEquiv)
+/-! ### Simple reflections -/
+
+/-- The simple reflection of `W` at the index `i`. -/
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:157]: Can you add this docstring to "main definitions" above?

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 10]
```diff
@@ -56,162 +49,119 @@ presentation corresponding to a Coxeter matrix which is registered in a Coxeter
...
+def simple (i : B) : W := cs.mulEquiv.symm (PresentedGroup.of i)
+
+theorem _root_.CoxeterMatrix.toCoxeterSystem_simple (M : CoxeterMatrix B) :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:160]: Can this be `simp`?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by eric-wieser** [comment]
Please make sure your description accurately reflects the post-review version

File: Mathlib/GroupTheory/Coxeter/Matrix.lean [hunk 11]
```diff
@@ -1,20 +1,40 @@
...
+a Coxeter matrix and the standard geometric representation of a Coxeter group.
 
 ## Main definitions
 
-* `Matrix.IsCoxeter` : A matrix `IsCoxeter` if it is a symmetric matrix with diagonal
-  entries equal to one and off-diagonal entries distinct from one.
+* `CoxeterMatrix` : The type of symmetric matrices of natural numbers whose rows and columns are
+indexed by a type `B` whose diagonal entries are equal to 1 and whose off-diagonal entries are not
+equal to 1.
+* `CoxeterMatrix.of` : Constructs a Coxeter matrix from a `Matrix B B ℕ`.
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Coxeter/Matrix.lean:36]: This is now called `.mk` not `.of`

File: Mathlib/GroupTheory/Coxeter/Matrix.lean [hunk 12]
```diff
@@ -1,20 +1,40 @@
...
+positive integer or $\infty$. In our treatment of Coxeter matrices, we use the value $0$ instead of
+$\infty$. This will turn out to have some fortunate consequences when defining the Coxeter group of
+a Coxeter matrix and the standard geometric representation of a Coxeter group.
 
 ## Main definitions
 
-* `Matrix.IsCoxeter` : A matrix `IsCoxeter` if it is a symmetric matrix with diagonal
-  entries equal to one and off-diagonal entries distinct from one.
+* `CoxeterMatrix` : The type of symmetric matrices of natural numbers whose rows and columns are
+indexed by a type `B` whose diagonal entries are equal to 1 and whose off-diagonal entries are not
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Coxeter/Matrix.lean:34]: This line and the one below should be indented two spaces

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 13]
```diff
@@ -56,162 +49,119 @@ presentation corresponding to a Coxeter matrix which is registered in a Coxeter
...
+def relation (i i' : B) : FreeGroup B := (FreeGroup.of i * FreeGroup.of i') ^ M i i'
 
-namespace CoxeterGroup
+/-- The set of all Coxeter relations associated to the Coxeter matrix $M$. -/
+def relationsSet : Set (FreeGroup B) := Set.range <| uncurry M.relation
 
-namespace Relations
+/-- The Coxeter group associated to a Coxeter matrix $M$; that is, the group
+$$\langle \{s_i\}_{i \in B} \vert \{(s_i s_{i'})^{M_{i, i'}}\}_{i, i' \in B} \rangle.$$ -/
+def group := PresentedGroup M.relationsSet
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:80]: Please add a type annotation here.
```suggestion
def group : sorry := PresentedGroup M.relationsSet
```
If this is a `Type _`, then it should be renamed to Group.

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 14]
```diff
@@ -56,162 +49,119 @@ presentation corresponding to a Coxeter matrix which is registered in a Coxeter
...
+@[ext]
+structure CoxeterSystem (W : Type*) [Group W] where
+  /-- The isomorphism between `W` and the Coxeter group associated to `M`. -/
+  mulEquiv : W ≃* M.group
 
 /-- A group is a Coxeter group if it admits a Coxeter system for some Coxeter matrix `M`. -/
-class IsCoxeterGroup (W : Type u) [Group W] : Prop where
-  nonempty_system : ∃ B : Type u, ∃ M : Matrix B B ℕ, M.IsCoxeter ∧ Nonempty (CoxeterSystem M W)
+class IsCoxeterGroup (W : Type*) [Group W] : Prop where
+  nonempty_system : ∃ B : Type*, ∃ M : CoxeterMatrix B, Nonempty (CoxeterSystem M W)
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:132]: This looks wrong to me; I'm pretty sure this is defining a typeclass `IsCoxeterGroup.{u,v} W`, which has more universe variables than expected. If this is deliberate, then I think writing the variables explicitly would be better.

File: Mathlib/GroupTheory/Coxeter/Basic.lean (hunk 10 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:160]: Yes

File: Mathlib/GroupTheory/Coxeter/Basic.lean (hunk 13 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean]: thanks; I also made it protected

**Comment by riccardobrasca** [comment]
Something broke the docstring [here](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/Coxeter/Basic.html#CoxeterSystem). Can you please have a look? Thanks!

**Comment by trivial1711** [comment]
I've taken a look, but I don't really understand what's wrong. It seems to work in https://observablehq.com/@bryangingechen/github-lean-doc-preview. Is this a bug in doc-gen?
